US06342765B1
N-Methylpiperidin-4-yl (2S)-2-{2-(4-fluorophenyl)-4-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxymethyl]benzoylamino}-4-methylsulfanylbutyrate
The title compound was prepared from 2-(4-fluorophenyl)-4-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxymethyl]benzoic acid by a similar method to that used for Example 1 but using N-methylpiperidin-4-yl (2S)-2-amino-4-(methylsulfanyl)butanoate (L-methionine (N-methylpiperidin-4-yl)ester) in place of L-methionine methyl ester.

reactant | 2-(4-fluorophenyl)-4-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxymethyl]benzoic acid | FC1=CC=C(C=C1)C1=C(C(=O)O)C=CC(=C1)C(C1=CC=C(C=C1)F)OCCN1C=NC=C1 | C25H20F2N2O3
reactant | N-methylpiperidin-4-yl (2S)-2-amino-4-(methylsulfanyl)butanoate | N[C@H](C(=O)OC1CCN(CC1)C)CCSC | C11H22N2O2S
product | N-Methylpiperidin-4-yl (2S)-2-{2-(4-fluorophenyl)-4-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxymethyl]benzoylamino}-4-methylsulfanylbutyrate | Yield: 72.5% | FC1=CC=C(C=C1)C1=C(C(=O)N[C@H](C(=O)OC2CCN(CC2)C)CCSC)C=CC(=C1)C(C1=CC=C(C=C1)F)OCCN1C=NC=C1 | C36H40F2N4O4S
